US04260776
358 g of N,N'-dibutylthiourea and 225 g of malonic acid are dissolved in 850 ml of glacial acetic acid, with warming, 190 ml of acetic anhydride are added dropwise at 60° C., with stirring, the mixture is warmed at 70° C. for 2 hours, 100 ml of acetic anhydride are added dropwise, the resulting mixture is warmed at 70° C. for 1 hour, a further 100 ml of acetic anhydride are added dropwise, the resulting mixture is warmed at 90° C. for 3 hours and 70 ml of water are added dropwise at 60°-90° C. The solvent is distilled off in vacuo at 50°-90° C. and the residue is stirred with 1 l of methanol. The crystalline precipitate is filtered off, washed with methanol and dried in vacuo at 40° C. 212 g of N,N'-dibutyl-5-acetyl-thiobarbituric acid are obtained.

reactant | N,N'-dibutylthiourea | 358 g | C(CCC)NC(=S)NCCCC | C9H20N2S
reactant | malonic acid | 225 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 190 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 70 ml | O | H2O
solvent | acetic acid | 850 ml | C(C)(=O)O | C2H4O2
product | N,N'-dibutyl-5-acetyl-thiobarbituric acid | 212 g | C(CCC)N1C(=S)N(C(=O)C(C1=O)C(C)=O)CCCC | C14H22N2O3S
